US08648066B2
6-Bromo-2-ethyl-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridine.
Synthesized according to the method of reagent preparation 19 by using 5-bromo-2,3-diaminopyridine and trimethyl orthopropionate in step 2 and 2-(trimethylsilyl)ethoxymethyl chloride in step 3. MS (EI) for C14H22BrN3OSi: 357 (MH+).

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | trimethyl orthopropionate | C(CC)(OC)(OC)OC | C6H14O3
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | C[Si](CCOCCl)(C)C | C6H15ClOSi
product | 6-Bromo-2-ethyl-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N(C(=N2)CC)COCC[Si](C)(C)C | C14H22BrN3OSi
